US04110455
2-benzoyl-3-nitro-6-methoxypyridine
60 grams of 2-benzoyl-3-nitro-6-chloropyridine were added in portions to a solution of 10 grams of sodium metal in 500 ml. of methanol at 50° C. with stirring, whereby the temperature gradually increased. Then the mixture was heated under reflux for four hours and subsequently treated with two liters of water. The precipitated crystals were filtered off with suction after one hour and recrystallized from methanol.

reactant | 2-benzoyl-3-nitro-6-chloropyridine | 60 grams | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1[N+](=O)[O-])Cl | C12H7ClN2O3
reactant | sodium | 10 grams | [Na] | Na
reactant | methanol | CO | CH4O
solvent | water | two liters | O | H2O
product | 2-benzoyl-3-nitro-6-methoxypyridine | C(C1=CC=CC=C1)(=O)C1=NC(=CC=C1[N+](=O)[O-])OC | C13H10N2O4
